US07368578B2
To a solution of methyl 4-{4-[(4-formyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzoate (0.92 g) in tetrahydrofuran (20 mL)-ethanol (10 mL) was gradually added sodium borohydride (0.09 g) at room temperature. After stirring the reaction mixture for 1 hr, water was added, and the precipitated crystals were collected by filtration to give methyl 4-{4-[(4-hydroxymethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzoate as colorless crystals (0.83 g, yield 90%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 170-171° C.

reactant | methyl 4-{4-[(4-formyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzoate | 0.92 g | C(=O)C1=CC(=C(OCC=2N=C(OC2C)C2=CC=C(C(=O)OC)C=C2)C=C1)OC | C21H19NO6
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | sodium borohydride | 0.09 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | methyl 4-{4-[(4-hydroxymethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzoate | 0.83 g, yield 90% | OCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=C(C(=O)OC)C=C2)C=C1)OC | C21H21NO6
